US07517889B2
A mixture of 4,6-dichloro-2-methoxy-pyrimidine (0.45 g, 2.5 mmol), C-isochroman-1-yl-methylamine (0.53 g, 3.2 mmol), and NaHCO3 (0.63 g, 7.5 mmol) in EtOH (5 mL) is heated to reflux for 4 h. The mixture is diluted with water, concentrated in vacuo. The residue is partitioned between EtOAc and water, and extracted with EtOAc. The extracts are dried (Na2SO4), and concentrated to afford (6-chloro-2-methoxy-pyrimidin-4-yl)-isochroman-1-ylmethyl-amine (0.84 g). LCMS: RT=2.94 minutes; MS: 306 (M+H).

reactant | 4,6-dichloro-2-methoxy-pyrimidine | 2.5 mmol, 0.45 g | ClC1=NC(=NC(=C1)Cl)OC | C5H4Cl2N2O
reactant | C-isochroman-1-yl-methylamine | 3.2 mmol, 0.53 g | C1(OCCC2=CC=CC=C12)CN | C10H13NO
reactant | NaHCO3 | 7.5 mmol, 0.63 g | C(=O)(O)[O-].[Na+]
solvent | EtOH | 5 mL | CCO | C2H6O
solvent | water | O | H2O
product | (6-chloro-2-methoxy-pyrimidin-4-yl)-isochroman-1-ylmethyl-amine | 0.84 g | ClC1=CC(=NC(=N1)OC)NCC1OCCC2=CC=CC=C12 | C15H16ClN3O2
